US04304780
N,N'-bis-[2-[[5-[(Cyclopropylamino)methyl]-2-furanylmethyl]thio]ethyl]-2-nitro-1,1-ethenediamine
A mixture of 5-[[(2-aminoethyl)thio]methyl]-N-cyclopropyl-2-furanmethanamine (1.67 g) and 1,1-bis-(methylthio)-2-nitroethene (0.61 g) was heated at 98°-100° for 3hr. The oily residue was chromatograpged (silica/methanol-0.88 ammonia 79:1) and the appropriate eluate evaporated to dryness to give the title compound (1.07 g) as an oil.

reactant | 5-[[(2-aminoethyl)thio]methyl]-N-cyclopropyl-2-furanmethanamine | 1.67 g | NCCSCC1=CC=C(O1)CNC1CC1 | C11H18N2OS
reactant | 1,1-bis-(methylthio)-2-nitroethene | 0.61 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | ammonia | N | H3N
product | N,N'-bis-[2-[[5-[(Cyclopropylamino)methyl]-2-furanylmethyl]thio]ethyl]-2-nitro-1,1-ethenediamine | 1.07 g | C1(CC1)NCC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NCCSCC=1OC(=CC1)CNC1CC1 | C24H35N5O4S2
